US08110581B2
Step 2. 2,7-diazaspiro[4.5]decan-1-one
Trifluoroacetic acid (1.0 mL, 0.013 mol) was added to a solution of 1-tert-butyl 3-ethyl 3-[2-(tritylamino)ethyl]piperidine-1,3-dicarboxylate (0.10 g, 0.00018 mol) in methylene chloride (1.0 mL, 0.016 mol) and the mixture was stirred for 1 h at rt to remove the Boc and trityl groups. Then the solvent was removed under vacuum and to the resultant residue was added 1,4-dioxane (3.0 mL, 0.038 mol) followed by N,N-diisopropylethylamine (0.13 mL, 0.00074 mol) and the resultant mixture was stirred at 150° C. (microwave) for 1 h. The solvent from the mixture was removed under vacuum and the crude product was used in the next step without further purification. LC-MS: 155.2 (M+H)+.

reactant | Trifluoroacetic acid | 0.013 mol, 1.0 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | 1-tert-butyl 3-ethyl 3-[2-(tritylamino)ethyl]piperidine-1,3-dicarboxylate | 0.00018 mol, 0.10 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NCCC1(CN(CCC1)C(=O)OC(C)(C)C)C(=O)OCC | C34H42N2O4
reactant | methylene chloride | 0.016 mol, 1.0 mL | C(Cl)Cl | CH2Cl2
reactant | 1,4-dioxane | 0.038 mol, 3.0 mL | O1CCOCC1 | C4H8O2
reactant | N,N-diisopropylethylamine | 0.00074 mol, 0.13 mL | C(C)(C)N(C(C)C)CC | C8H19N
product | 2,7-diazaspiro[4.5]decan-1-one | C1(NCCC12CNCCC2)=O | C8H14N2O
